US06455520B1
N-{3-[3-(4methylpiperazin-1-ylmethyl)benzamido]-4-methylphenyl}pyridine-3-carboxamide
Pyridine-3-carbonyl chloride (0.09 g) was added to a stirred mixture of N-(5-amino-2-methylphenyl)-3-(4-methylpiperazin-1-ylmethyl)benzamide (0.15 g), triethylamine (0.1 g) and methylene chloride (5 ml) and the mixture was stirred at ambient temperature for 16 hours. The mixture was washed with a saturated aqueous solution of sodium bicarbonate. The organic phase was evaporated and the residue was triturated under a mixture of ethyl acetate and diethyl ether. There was thus obtained the title compound (0.056 g); Mass Spectrum: M+H+444.

reactant | Pyridine-3-carbonyl chloride | 0.09 g | N1=CC(=CC=C1)C(=O)Cl | C6H4ClNO
reactant | N-(5-amino-2-methylphenyl)-3-(4-methylpiperazin-1-ylmethyl)benzamide | 0.15 g | NC=1C=CC(=C(C1)NC(C1=CC(=CC=C1)CN1CCN(CC1)C)=O)C | C20H26N4O
reactant | triethylamine | 0.1 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-{3-[3-(4methylpiperazin-1-ylmethyl)benzamido]-4-methylphenyl}pyridine-3-carboxamide | 0.056 g | CN1CCN(CC1)CC=1C=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C=2C=NC=CC2)C=CC1 | C26H29N5O2
